US06229049B1
Synthesis of Ethyl 2,2-Difluoro-2-(Methylthio)-Acetate
A solution of ethyl chlorodifluoroacetate (7.9 g, 50.0 mmol) in dimethyl sulfoxide (20 ml) was added dropwise to a solution of sodium methyl mercaptan (4.6 g, 65 mmol) in dimethyl sulfoxide (60 ml) under cooling with ice, and the mixture was stirred at room temperature for 1 hour. After completion of the reaction, the reaction mixture was poured into ice water to conduct extraction with ether. The solvent was distilled out of the resultant extract under reduced pressure. The resultant residue was distilled under reduced pressure to obtain the intended product (3.7 g; yield: 43.2%) as a colorless oil.

reactant | ethyl chlorodifluoroacetate | 50.0 mmol, 7.9 g | ClC(C(=O)OCC)(F)F | C4H5ClF2O2
reactant | sodium methyl mercaptan | 65 mmol, 4.6 g | CS.[Na]
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 60 ml | CS(=O)C | C2H6OS
product | Ethyl 2,2-Difluoro-2-(Methylthio)-Acetate | yield: 43.2% | FC(C(=O)OCC)(SC)F | C5H8F2O2S
